US04828941
73 g (1 mole) of tert-butylamine were added to a solution of 74 g (0.5 mole) of 2-hydroxy-5-vinylbenzaldehyde in 750 ml of toluene, and this mixture was refluxed for 2 hours. After extraction with twice 500 ml of ice water, the toluene was distilled off. 80 g (79%) of 2-butylaminomethyl-4-vinylphenol were obtained as a yellow oil.

reactant | tert-butylamine | 1 mole, 73 g | C(C)(C)(C)N | C4H11N
reactant | 2-hydroxy-5-vinylbenzaldehyde | 0.5 mole, 74 g | OC1=C(C=O)C=C(C=C1)C=C | C9H8O2
reactant | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 2-butylaminomethyl-4-vinylphenol | 80 g, 79% | C(CCC)NCC1=C(C=CC(=C1)C=C)O | C13H19NO
